US08648041B2
Synthesis of 2,2-Dimethyl-N-pyridin-2-ylmethylmalonamic acid
Chlorotrityl chloride resin (2.3 g, 3.0 mmol) was swelled in DCM for 20 mins and filtered. Dimethylmalonic acid (2 eq; 6.0 mmol; 793 mg) was dissolved i DCM:NMP 1:1 (10 mL) and added to the resin followed by DIPEA (6 eq; 18.0 mmol; 3.14 mL) and DCM (10 mL). The resin was shaken overnight at RT. The resin was filtered and washed with DCM:MeOH:DIPEA (17:2:1), DCM, NMP og DCM (2×25 mL of each). The resin was swelled in NMP for 20 mins and filtered. HOAt (3 eq; 9.0 mmol; 1.23 g), DIC (3 eq; 9.0 mmol; 1.40 mL) and NMP (25 mL) was added and the resin was shaken for 90 min at RT. The resin was filtrered and 2-(Aminomethyl)pyridine (2 eq; 6 mmol; 659 mg), DIPEA (4 eq; 6.0 mmol; 2.09 mL), and NMP (10 mL) was added. The resin was shaken for overnigth. The resin was filtered and washed with NMP (5×20 mL) and DCM (10×20 mL). TFA/TIS/water (95:2.5:2.5; 30 mL) was added to the resin and it was shaked for 1 hr, filtered and concentrated in vacuo to yield the title compound.

reactant | Chlorotrityl chloride | 3.0 mmol, 2.3 g | ClC1=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)Cl)C=CC=C1 | C19H14Cl2
reactant | Dimethylmalonic acid | 6.0 mmol, 793 mg, 2 eq | CC(C(=O)O)(C(=O)O)C | C5H8O4
reactant | DIPEA | 18.0 mmol, 3.14 mL, 6 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HOAt | 9.0 mmol, 1.23 g, 3 eq | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIC | 9.0 mmol, 1.40 mL, 3 eq | CC(N=C=NC(C)C)C | C7H14N2
reactant | 2-(Aminomethyl)pyridine | 6 mmol, 659 mg, 2 eq | NCC1=NC=CC=C1 | C6H8N2
reactant | DIPEA | 6.0 mmol, 2.09 mL, 4 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
solvent | DCM NMP | 10 mL | C(Cl)Cl.CN1CCCC1=O
product | 2,2-Dimethyl-N-pyridin-2-ylmethylmalonamic acid | CC(C(=O)O)(C(=O)NCC1=NC=CC=C1)C | C11H14N2O3
